US05432182
A solution of 3-butyryl-4-chloro-8-(benzoyloxymethyl)quinoline (3.68 g, 10 mmol) and 4-fluoro-2-methylaniline (1.67 ml, 15 mmol) in dioxan (40 ml) was heated at reflux for 3 hours, cooled, filtered and the solid discarded. The solution was evaporated and the residue taken up in 1% methanolic sodium hydroxide (100 ml) and stirred 2 hours at room temperature. The solid was filtered off and recrystallised from methanol to give 3-butyryl-4-(2-methyl-4-fluorophenylamino)-8-(hydroxymethyl)quinoline (1.56 g, 44%), m.p. 168°-170°.

reactant | 3-butyryl-4-chloro-8-(benzoyloxymethyl)quinoline | 10 mmol, 3.68 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=CC=C1)=O | C21H18ClNO3
reactant | 4-fluoro-2-methylaniline | 15 mmol, 1.67 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2-methyl-4-fluorophenylamino)-8-(hydroxymethyl)quinoline | 1.56 g, 44% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)CO | C21H21FN2O2
